Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, fatigue

 
Major Surgical or Invasive Procedure:
1. Aortic valve replacement 25 mm Bicor Epic tissue valve.
2. Mitral valve repair with a Gore-Tex neo chordae
    implantation and a mitral valve annuloplasty with a 32
    mm physio 2 annuloplasty ring.
3. Resection of ascending aortic aneurysm.  Ascending
   aortic replacement with a 28 mm gel weave tube graft.

 
History of Present Illness:
___ year old male with history of aortic stenosis and
insufficiency. He has been followed with echocardiograms.
Recently he had increased shortness of breath and fatigue from
congestive heart failure. He was started on diuretics and over
one week had a 14 pound weight loss. Underwent an echo on ___
which showed moderately severe AS and moderate AI. He is now
referred for surgical consultation.

 
Past Medical History:
Critical Symptomatic AS, MR ___ flail anterior mitral leaflet 
and ascending Aortic Aneurysm. S/P. AVR, MVR and Asceding Aortic 
Replacement
PMH:
Osteoarthritis
Congenital hypospadias
GERD and ___ Esophagus
Anemia
Past Surgical History:
s/p Bilateral total knee replacement
s/p Left and right inguinal hernia repair
s/p Appendectomy
s/p bilateral GSV stripping

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Pulse:  78  Resp: 16  O2 sat: 100% 
B/P  Right: 119/61   Left: 113/69
Height: 67"    Weight: 154 lb

General: NAD, appears older than stated age
Skin: Warm [x] Dry [x] Intact [x]
HEENT: NCAT [x] PERRLA [x] EOMI [x]
Neck: Supple [x] Full ROM [x] JVD []
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur [x] Grade ___ syst. 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x] Edema [] _none_
Varicosities: None [x]  multiple skip incisions s/p vein
stripping bilaterally
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left:2+
DP           Right: 2+  Left:2+
___           Right: 2+  Left:2+
Radial       Right: 2+  Left:2+

Carotid Bruit      Right:    Left:
+ radiation of cardiac murmur

 
Pertinent Results:
___ Intra-op TEE
Conclusions  
Pre-Bypass:
The left atrium is moderately dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium or 
left atrial appendage. No atrial septal defect is seen by 2D or 
color Doppler. There is moderate symmetric left ventricular 
hypertrophy. The left ventricular cavity is severely dilated. 
Overall left ventricular systolic function is moderately 
depressed (LVEF=35-40 %). Right ventricular chamber size and 
free wall motion are normal. The aortic root is mildly dilated 
at the sinus level. The ascending aorta is mildly dilated. The 
number of aortic valve leaflets cannot be determined. The aortic 
valve leaflets are severely thickened/deformed. Significant 
aortic stenosis is present (not quantified). Moderate to severe 
(3+) aortic regurgitation is seen. The aortic regurgitation jet 
is eccentric, directed toward the anterior mitral leaflet. The 
mitral valve leaflets are moderately thickened. Torn mitral 
chordae are present. An eccentric jet of Moderate to severe (3+) 
mitral regurgitation is seen. There is no pericardial effusion. 
Dr. ___ was notified in person of the results on ___ at 
0830.

Post-Bypass:
The patient is in SR on a milrinone, epinephrine, and 
phenylepphrine infusion s/p AVR, mitral ring, and ascending 
aorta repair. 
Left ventricular function is improved in the setting of 
ionotropic support with an estimated EF 45%. The septum is 
hypokinetic with mild dyskinesis. 
There is a well seated bioprosthetic aortic valve. There are no 
perivalular leaks. The peak and mean gradients are 36/14mmHg at 
a CO of 6.5.
There is a well seated mitral annuloplasty ring.. The mitral 
regurgitation is significantly improved - now trace. Peak and 
mean gradients are ___ mmHg at a CO of 6.5.
There is an echodense structure consitant with a tube graft in 
the ascending aortic position. 
The remainder of the exam is unchanged. 
.

___ 06:05AM BLOOD WBC-9.4 RBC-3.43* Hgb-10.4* Hct-31.6* 
MCV-92 MCH-30.3 MCHC-33.0 RDW-13.7 Plt ___
___ 06:20AM BLOOD WBC-11.8* RBC-3.28* Hgb-10.0* Hct-30.2* 
MCV-92 MCH-30.7 MCHC-33.3 RDW-14.1 Plt ___
___ 06:05AM BLOOD Glucose-116* UreaN-51* Creat-1.3* Na-132* 
K-4.3 Cl-95* HCO3-30 AnGap-11
___ 06:20AM BLOOD Glucose-107* UreaN-44* Creat-1.2 Na-131* 
K-4.6 Cl-96 HCO3-25 AnGap-15
 
Brief Hospital Course:
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent AVR (25mm 
tissue), MVrepair (32mm ring), and Ascending Aorta Replacement 
(28mm gelweave graft) with Dr. ___.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. POD 1 found the patient extubated, alert 
and oriented and breathing comfortably.  The patient was 
neurologically intact and hemodynamically stable on no inotropic 
or vasopressor support.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  Free water was restricted for mild 
hyponatremia, which improved prior to discharge.  He had a brief 
episode of rapid Atrial Fibrillation, which converted to SR with 
IV lopressor and titration of Atenolol. 
The patient complained of nausea and "wretching".  SLP evaluated 
the patient and he passed the swallow study without difficulty.  
The patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 5 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged to ___ in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO DAILY 
am 
2. Furosemide 20 mg PO DAILY 
pm 
3. Potassium Chloride 20 mEq PO DAILY 
4. Lorazepam 0.5-1 mg PO HS:PRN insomnia 
5. Omeprazole 40 mg PO BID 
6. Viagra *NF* (sildenafil) 100 mg Oral prn ED 
7. Astelin *NF* (azelastine) 137 mcg NU daily 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1. Omeprazole 40 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Acetaminophen 650 mg PO/PR Q4H:PRN temperature >38.0 
4. Aspirin EC 81 mg PO DAILY 
5. Atenolol 25 mg PO BID 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
7. Astelin *NF* (azelastine) 137 mcg NU daily 
8. Lorazepam 0.5-1 mg PO HS:PRN insomnia 
RX *lorazepam 0.5 mg 0.5-1.0 mg by mouth hs Disp #*30 Tablet 
Refills:*0
9. Furosemide 40 mg PO DAILY 
am 
10. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Critical Symptomatic AS, MR ___ flail anterior mitral leaflet 
and ascending Aortic Aneurysm. S/P. AVR, MVR and Asceding Aortic 
Replacement 
PMH: 
Osteoarthritis 
Congenital hypospadias 
GERD and ___ Esophagus 
Anemia 
Past Surgical History: 
s/p Bilateral total knee replacement 
s/p Left and right inguinal hernia repair 
s/p Appendectomy 
s/p bilateral GSV stripping 

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating, deconditioned
Incisional pain managed with oral analgesics
Incisions: Sternal - healing well, no erythema or drainage 
Edema: none

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage.
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive. 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___